US07674795B2
A mixture of 3.0 g of (2-amino-4-chlorophenyl)amide of 9-oxo-9H-fluorene-4-carboxylic acid in 120 ml of glacial acetic acid is refluxed for 2.5 hours. Allow the mixture to return to room temperature and evaporate the reaction medium to dryness under vacuum. The residue is taken up with 75 ml of dichloromethane, and the organic phase is washed with twice 50 ml of a saturated solution of sodium bicarbonate, and 50 ml of a saturated solution of sodium chloride. After drying over magnesium sulphate, the organic phase is evaporated to dryness under vacuum. In this way, we obtain 3.12 g of 4-(6-chloro-1H-benzimidazol-2-yl)-9H-fluoren-9-one in the form of a beige foam with the following characteristics:

reactant | (2-amino-4-chlorophenyl)amide | 3.0 g | NC1=C(C=CC(=C1)Cl)[NH-]
reactant | 9-oxo-9H-fluorene-4-carboxylic acid | O=C1C2=CC=CC=C2C=2C(=CC=CC12)C(=O)O | C14H8O3
solvent | acetic acid | 120 ml | C(C)(=O)O | C2H4O2
product | 4-(6-chloro-1H-benzimidazol-2-yl)-9H-fluoren-9-one | 3.12 g | ClC=1C=CC2=C(NC(=N2)C2=CC=CC=3C(C4=CC=CC=C4C23)=O)C1 | C20H11ClN2O
